US06143764
N-(4-Hydroxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea [269]
N-(4-Benzyloxyphenyl)-N'-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}urea (228 mg) was dissolved in N,N-dimethylformamide/ethyl acetate (15 ml/20 ml), after the addition of triethylamine (4 ml), 20% palladium hydroxide (1.18 g) was added, and the admixture was stirred at room temperature under hydrogen for 15 hours. The reaction mixture was filtered using Celite, after which the filtrate was concentrated, and the resulting residue was purified by column chromatography on silica gel eluting with chloroform/acetone (10/1) to obtain 188 mg of the title compound (yield: 100%).

reactant | N-(4-Benzyloxyphenyl)-N'-{4-[(6,7-Dimethoxy-4-quinolyl)oxy]phenyl}urea | 228 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C31H27N3O5
reactant | triethylamine | 4 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide ethyl acetate | 15 ml | CN(C=O)C.C(C)(=O)OCC
catalyst | palladium hydroxide | 1.18 g | [OH-].[Pd+2].[OH-]
product | N-(4-Hydroxyphenyl)-N'-{4-[(6,7-dimethoxy-4-quinolyl)oxy]phenyl}urea | 188 mg, yield: 100% | OC1=CC=C(C=C1)NC(=O)NC1=CC=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)OC)OC | C24H21N3O5
